US07902252B2
6.16. Synthesis of (1aR,5aR)-1a,2,5,5a-tetrahydro-1H-2-aza-cyclopropa[α]pentalene-3-carboxylic acid (146)
The title compound was synthesized from (1aR,5aR)-1a,2,5,5a-tetrahydro-1H-2-aza-cyclopropa[α]pentalene-3-carboxylic acid ethyl ester (115 mg, 0.6 mmol) and lithium hydroxide (252 mg, 6.0 mmol in 5 mL water) according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (10 mL) was used. The resulting product was purified by chromatography eluting with heptane-EtOAc, gradient 0 to 50% EtOAc. 27 mg. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 0.31-0.39 (m, 1H), 1.06-1.16 (m, 1H), 2.04-2.19 (m, 2H), 2.63 (d, J=15.67 Hz, 1H), 2.84 (dd, J=15.62, 6.35 Hz, 1H), 6.73 (s, 1H), 8.97 (br. s, 1H). LCMS m/e 164 (M+H). Purity>85% (HPLC).

reactant | (1aR,5aR)-1a,2,5,5a-tetrahydro-1H-2-aza-cyclopropa[α]pentalene-3-carboxylic acid ethyl ester | 0.6 mmol, 115 mg | C(C)OC(=O)C1=CC=2C[C@@H]3[C@H](C2N1)C3 | C11H13NO2
reactant | lithium hydroxide | 6.0 mmol, 5 mL, 252 mg | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (1aR,5aR)-1a,2,5,5a-tetrahydro-1H-2-aza-cyclopropa[α]pentalene-3-carboxylic acid | C1[C@@H]2[C@H]1CC=1C=C(NC21)C(=O)O | C9H9NO2
